US05008267
(1) Preparation of 2-chloro-5-(2-pyridinecarbonyl) nitrobenzene
2-bromopyridine (3.3 ml) was dissolved in 30 ml of ether and added with 22.1 ml of butyllithium (1.6 M, in hexane) drop by drop at -30° C. To this mixture were added a solution of 5.0 g of 4-chlorobenzonitrile in ether (10 ml) drop by drop at the same temperature. The reaction mixture was stirred for 1 hour and then poured into ice water. Ether was removed in vacuo. The resultant water-layer fraction was acidified by adding 6 N HCl, stirred at 100° C. for 1 hour, cooled, alkalized by adding sodium hydroxide and then extracted with ether. The resultant ether-layer fraction was concentrated and the oil thus obtained was dissolved in 10 ml of fuming sulfuric acid at 0° C. To this solution, added 1.2 ml of fuming nitric acid drop by drop and the resultant solution was stirred at the same temperature for 1 hour. The reaction mixture was poured into ice water and crystals formed were collected by filtration. The crystals were further recrystallized using ethanol, and 3.6 g of crystalline 2-chloro-5-(2-pyridinecarbonyl)nitrobenzene was thus obtained.

reactant | 2-bromopyridine | 3.3 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | butyllithium | 1.6 M, 22.1 ml | C(CCC)[Li]
reactant | 4-chlorobenzonitrile | 5.0 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | nitric acid | 1.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | ether | 30 ml | CCOCC | C4H10O
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-5-(2-pyridinecarbonyl) nitrobenzene | ClC1=C(C=C(C=C1)C(=O)C1=NC=CC=C1)[N+](=O)[O-] | C12H7ClN2O3
